* C:\Users\Z004NBWP\Documents\LTspice\Draft2.asc
* Generated by LTspice 24.1.6 for Windows.
R1 N003 N004 1k
C1 N004 0 10µ
V1 N007 0 PULSE(0 3.3 0 0 0 0.4ms 1ms) Rser=100
R2 N004 0 20k
V2 N001 0 5V
Q1 N003 N002 N001 0 PNP
R3 N001 N002 10k
R4 N002 N005 10k
Q2 N005 N006 0 0 NPN
R5 N007 N006 10k
R6 N003 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Z004NBWP\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100ms
.backanno
.end
